US06271411B1
Preparation of 4-amino-phenyl-indene
20 ml of DMF, 2.2 g (20 mmol) of indene, 4,4 g (20 mmol) of para-amino-iodo-benzene, 2 ml of triethylamine and 0,134 (0,6 mmol) of Pd(OAc)2 were stirred under reflux for 10 h. The resulting mixture was poured into 200 ml of 15% HCl. Forming precipitate was separated and washed with dichloromethane. The resulting substance was treated with the mixture 50 ml of dichloromethane and 50 ml of 5% KOH in water. Organic layer was separated, washed twice with water, filtered and dried over Na2SO4. Dichloromethane was removed and the residue was recrystallized from 20 ml of EtOH. The yeld of product was 70%.

reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | indene | 20 mmol, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | para-amino-iodo-benzene | 20 mmol, 4,4 g | NC1=CC=C(C=C1)I | C6H6IN
reactant | HCl | 200 ml | Cl | ClH
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-phenyl-indene | NC1=CC=C(C=C1)C1C=CC2=CC=CC=C12 | C15H13N
